US07932272B2
(1-Benzyloxy-1H-pyrrol-3-yl)-methanol
To a solution of 1-benzyloxy-1H-pyrrole-3-carbaldehyde described in Preparation Example 63 (500 mg, 2.5 mmol) in tetrahydrofuran (10 mL) was added lithium aluminum hydride (75 mg, 1.97 mmol), and the solution was stirred at room temperature for 10 minutes. Water and ethyl acetate were added to the reaction solution, which was then partitioned, silica gel was added to the organic layer, the solvent was evaporated in vacuo for adsorption, purification by silica gel column chromatography (hexane:ethyl acetate=2:1) was carried out, and the title compound (168 mg, 0.828 mmol, 33.1%) was obtained as a colorless oil.

reactant | 1-benzyloxy-1H-pyrrole-3-carbaldehyde | C(C1=CC=CC=C1)ON1C=C(C=C1)C=O | C12H11NO2
reactant | lithium aluminum hydride | 1.97 mmol, 75 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (1-Benzyloxy-1H-pyrrol-3-yl)-methanol | 0.828 mmol, 168 mg, 33.1% | C(C1=CC=CC=C1)ON1C=C(C=C1)CO | C12H13NO2
